US07528134B2
[(3-methylbenzoyl)amino]methyl acetate
N-(3-Methylbenzoyl)glycine (10 g, 51.7 mmol), lead tetraacetate (25.25 g, 56.94 mmol), and copper (II) acetate monohydrate (0.94 g, 5.17 mmol) were combined in toluene and heated at reflux overnight. The reaction mixture was to cool to room temperature, filtered through Celite and the fitlrate concentrated under reduced pressure. The residue was purified by flash column chromatography on silica gel (elution with 25% ethyl acetate/hexanes) to provide the title compound (7.95 g, 74% yield). 1H NMR (300 MHz, CDCl3) δ 2.10 (s, 3H), 2.40 (s, 3H), 5.45 (d, 2H, J=9 Hz), 7.35 (m, 2H), 7.55 (m, 1H), 7.62 (s, 1H); MS (DCI/NH3) m/e 208 (M+H)+.

reactant | N-(3-Methylbenzoyl)glycine | 51.7 mmol, 10 g | CC=1C=C(C(=O)NCC(=O)O)C=CC1 | C10H11NO3
reactant | lead tetraacetate | 56.94 mmol, 25.25 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | copper (II) acetate monohydrate | 5.17 mmol, 0.94 g | O.C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | [(3-methylbenzoyl)amino]methyl acetate | 7.95 g, 74% yield | C(C)(=O)OCNC(C1=CC(=CC=C1)C)=O | C11H13NO3
